US08629168B2
b) 4-Bromo-2-methylsulfanyl-oxazolo[5,4-c]pyridine
A mixture of 1.21 g (5.24 mmol) 4-bromo-oxazolo[5,4-c]pyridine-2-thiol, 0.8 g (5.76 mmol) K2CO3, 0.9 g (6.28 mmol) MeI in 12 ml DMF is stirred at room temperature for 1 h. The reaction mixture is then poured on water and extracted 2× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo to afford the title compound in quantitative yield.

reactant | 4-bromo-oxazolo[5,4-c]pyridine-2-thiol | 5.24 mmol, 1.21 g | BrC1=NC=CC2=C1OC(=N2)S | C6H3BrN2OS
reactant | K2CO3 | 5.76 mmol, 0.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 6.28 mmol, 0.9 g | CI | CH3I
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-2-methylsulfanyl-oxazolo[5,4-c]pyridine | quantitative yield | BrC1=NC=CC2=C1OC(=N2)SC | C7H5BrN2OS
